US06831081B2
2-(Hydroxy(phenyl)methyl)pyrrolidine.
N-Boc-pyrrolidine (5.0 g) is dissolved in diethyl ether (60 mL) and the solution is cooled to −78° C. N,N,N′,N′-Tetramethylethylenediamine (TMEDA) (4.4 mL) is added to the mixture followed by sec-butyl lithium (27.0 mL, 1.3 M in cyclohexane) maintaining the temperature below 60° C. After 2 h, benzaldehyde (3.6 mL) is added and the mixture is stirred at −70° C. for an additional 30 mL The reaction mixture is allowed to warm to room temperature and is then quenched with water and poured into EtOAc (200 mL). The separated organic layer is washed with saturated aq. ammonium chloride (3×50 mL) followed by brine (50 mL), dried (MgSO4), and concentrated. The crude product is purified by column chromatography (heptane/EtOAc, 8/1; 6/1) to afford 6.3 g of N-Boc-2-(hydroxy(phenyl)methyl)-pyrrolidine as a mixture of diasteromers. The resulting N-Boc-2-(hydroxy(phenyl)-methyl)pyrrolidine (5.6 g) is dissolved in dichloromethane (500 mL) and trifluoroacetic acid (60 mL) is added. The mixture is concentrated, dissolved in dichloromethane (200 mL), and washed with saturated aq. sodium bicarbonate (3×100 DL). The aqueous layers are extracted with dichloromethane (4×50 mL) and the combined organic layers are concentrated. The crude product is distilled in a Kugelrohr apparatus (150-175° C., 0.2 Torr) to afford 2.47 g of the title compound as a mixture of diasteromers. Physical characteristics. MS (ESI+) m/z 178 (M+H)+.

reactant | N-Boc-2-(hydroxy(phenyl)-methyl)pyrrolidine | 5.6 g | C(=O)(OC(C)(C)C)N1C(CCC1)C(C1=CC=CC=C1)O | C16H23NO3
reactant | trifluoroacetic acid | 60 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 2-(Hydroxy(phenyl)methyl)pyrrolidine | 2.47 g | OC(C1NCCC1)C1=CC=CC=C1 | C11H15NO
